### PR TITLE
[Merged by Bors] - feat: weaken differentiability assumptions of manifolds

### PR DESCRIPTION
**Pull request by sgouezel**
Given our definitions, many natural maps between manifolds are `C^n` even when the manifolds are just `C^1`, because they are expressed in terms of the canonical charts. This PR takes advantage of this to weaken several assumptions on manifolds from `C^n` to `C^1`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 1]
```diff
@@ -306,6 +306,46 @@ theorem contMDiffAt_iff_target {x : M} :
...
+      · intro y hy
+        have : (chartAt H x).symm ((chartAt H x) y) = y :=
+          PartialHomeomorph.left_inv _ (by simpa using hy.2)
+        simp [this]
+      · simp
+  rw [← this]
+  simp only [ContDiffWithinAtProp, mfld_simps]
+  rfl
+
+/-- One can reformulate being `Cⁿ` at a point as begin `Cⁿ` in the source space when
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:342]: typo: "begin"

**Review by grunweg — COMMENTED** [review]
What a lovely PR! I'm really busy this week - if it's still open for review next week, I will take a look at the main file.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 2]
```diff
@@ -306,6 +306,46 @@ theorem contMDiffAt_iff_target {x : M} :
...
+      ContMDiffWithinAt 𝓘(𝕜, E) I' n (f ∘ (extChartAt I x).symm)
+        ((extChartAt I x).symm ⁻¹' s ∩ range I) (extChartAt I x x) := by
+  simp_rw [ContMDiffWithinAt, liftPropWithinAt_iff']
+  have : ContinuousWithinAt f s x
+      ↔ ContinuousWithinAt (f ∘ ↑(extChartAt I x).symm) (↑(extChartAt I x).symm ⁻¹' s ∩ range ↑I)
+        (extChartAt I x x) := by
+    refine ⟨fun h ↦ ?_, fun h ↦ ?_⟩
+    · apply h.comp_of_eq
+      · exact (continuousAt_extChartAt_symm x).continuousWithinAt
+      · exact MapsTo.mono_left (mapsTo_preimage _ _) inter_subset_left
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:322]:
```suggestion
      · exact (mapsTo_preimage _ _).mono_left inter_subset_left

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean [hunk 3]
```diff
@@ -306,6 +306,46 @@ theorem contMDiffAt_iff_target {x : M} :
...
+        simpa [this] using hy.1
+      apply this.congr
+      · intro y hy
+        have : (chartAt H x).symm ((chartAt H x) y) = y :=
+          PartialHomeomorph.left_inv _ (by simpa using hy.2)
+        simp [this]
+      · simp
+  rw [← this]
+  simp only [ContDiffWithinAtProp, mfld_simps]
+  rfl
```
Comment (grunweg) [inline Mathlib/Geometry/Manifold/ContMDiff/Defs.lean:340]: I wonder if we can avoid this trailing rfl. I tried doing `rw [and_congr]` before, then `rfl` fails. This makes me very slightly uneasy, but only very slightly.

**Review by grunweg — COMMENTED** [review]
Sorry for the long wait. This PR is a nice small observation, and nicely done. I have two very minor comments - otherwise I'd maintainer merge it.

File: Mathlib/Geometry/Manifold/ContMDiff/Defs.lean (hunk 3 above)
Comment (sgouezel) [reply Mathlib/Geometry/Manifold/ContMDiff/Defs.lean]: I've added two lemmas to the simp call to make the `rfl` unnecessary.

**Comment by grunweg** [comment]
Thanks! Assuming CI passes (and I don't see why it should fail now), let's land this:
maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
